US06344570B1
At ambient temperature a rapidly stirred solution of 4-hydroxybenzofuran (2.0 g) (prepared by the method of G. Keen & P. Maddocks Syn. Comm., 16(13), 1635-1640 (1986)) in glacial acetic acid (30 ml) containing 30% palladium on carbon (0.2 g) was exposed to an atmosphere of hydrogen. When uptake of hydrogen had ceased the solution was filtered and the filter cake washed with glacial acetic acid. The combined filtrates were evaporated to dryness to give of 4-hydroxy-dihyrobenzofuran (2.05 g) 1H NMR (DMSO-d6, 300 MHz, ppm): 3.0(2H,t), 4.5(2H,t), 6.2(1H.d), 6.3(1H,d), 6.8(1H,t), 9.5(1H,b) m/Z 135 (M−H).

reactant | 4-hydroxybenzofuran | 2.0 g | OC1=CC=CC2=C1C=CO2 | C8H6O2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | 4-hydroxy-dihyrobenzofuran | 2.05 g | OC1=CC=CC2=C1CCO2 | C8H8O2
